US08278454B2
3,4-Dihydro-2H-pyran-2-carbaldehyde (300 g, 2.68 mol) was dissolved in tetrahydrofuran (710 mL). Raney-Co catalyst (30 g, tetrahydrofuran moist) was added. Gaseous methyl amine (415.4 g, 13.4 mol) was transferred into the solution within 50 minutes (45° C.). Hydrogen (49.2 L) was added and the pressure adjusted to 100 bar and the solution was stirred for about 2 h at 100° C. The reaction vessel was cooled to room temperature, the gas removed and the solution degassed. The solution was concentrated under reduced pressure. The crude product (344.5 g) was distilled at reduced pressure to receive (3,4-Dihydro-2H-pyran-2-ylmethyl)-methyl-amine (289.8 g, 2.28 mol, 85% yield). Analytical data amine (3,4-Dihydro-2H-pyran-2-ylmethyl)-methyl-amine: Bp. 55-57° C. at 16 mbar; HPLC-MS: (M+H)+=128 at rt=0.619 min. (TIC), rt=0.596 min. (UV), rt=0.631 min. (ELS), Chromolith SpeedROD RP-18e 50-4.6 mm, solvent A: water+0.1% TFA, solvent B: acetonitrile+0.1% TFA, gradient: 4% solvent B at 0.0 min., 100% solvent B at 2.6 min., flow: 2.4 mL/min., UV: 220 nm.

reactant | 3,4-Dihydro-2H-pyran-2-carbaldehyde | 2.68 mol, 300 g | O1C(CCC=C1)C=O | C6H8O2
reactant | methyl amine | 13.4 mol, 415.4 g | CN | CH5N
reactant | Hydrogen | 49.2 L | [H][H] | H2
solvent | tetrahydrofuran | 710 mL | O1CCCC1 | C4H8O
product | (3,4-Dihydro-2H-pyran-2-ylmethyl)-methyl-amine | 2.28 mol, 289.8 g, 85% yield | O1C(CCC=C1)CNC | C7H13NO
